data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]12C(NC(C[C:22]1=[C:23]3C=CC=C[C:24]3=[NH+:25]2)CC#N)CO[Si](C4=CC=CC=C4)(C5=CC=CC=C5)C(C)(C)C.C(=O)(C(F)(F)F)[O-:10].C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH3+].O>>[H:20][O:10]C(=O)C(F)(F)F.CC(C)(C)[Si](C1=CC=CC=C1)(C2=CC=CC=C2)OCC3[C:21]4=[C:22](CC(N3)CC#N)[C:23]5=[C:24]([NH:25]4)C=CC=C5.C1=CC2=C(C=C1)NC=C2CC(CC#N)[NH3+].O 10=20;24,25=25;20,21=21,22;22,23=23,24
CC(C)(C)[S:20](NC)([O-:10])[Cl:21].CC[NH+](CC)CC>>CC(C)(C)[S:20](=[O:10])NC.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)CC)Br.[Fe-]([Br:10])(Br)(Br)Br>>[H:20][Br+:10][Fe-](Br)(Br)Br.CCC(=O)O[C:22]1=[C:21](C=CC=C1)Br 10=20;20,21=21,22
[Li+:20].CC=[N:10]OC.[AlH4-]>>[Li:20][N+:10](=CC)OC.[AlH4-] 10=20,
[Li:11][CH:10]=C.CC1(CC=C[C:20](=[O:21])C1)C>>[Li+:11].CC1(CC=C[C:20](C1)([CH:10]=C)[O-:21])C 10,11=10,20;20,21=21
[H:20][O:21][N+](=O)[O-].[N+](=O)([OH:10])[O-]>>[H:20][OH+:10][N+](=O)[O-].[N+](=O)([O-:21])[O-] 10=20;20,21=21
C[CH:10]=[C:11](N(C)C)[O-:12].[Br:20][Br:21]>>C[CH:10]([C:11](=[O:12])N(C)C)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12=11
C1=CC2=C(C=C1)S[C:20](=[NH+:21]2)S(=O)CC[O-:10]>>C1CS(=O)[C:20]2([O:10]1)[NH:21]C3=C(S2)C=CC=C3 10=20;20,21=21
[H:20][O+:21](C)C(C1=CC=CC=C1)(N)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[O:21]C(C1=CC=CC=C1)(N)O 10=20;20,21=21
COC1=CC=C([CH:10]=[CH:11]1)CC[NH+:21]=[CH2:20].CO.O.[Cl-]>>COC1=CC=C2CC[NH:21][CH2:20][CH:10]2[CH+:11]1.CO.O.[Cl-] 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C.CC(C)(NC)[OH:10]>>[H:20][OH+:10]C(C)(C)NC.CC(=O)[O-:21] 10=20;20,21=21
C(CO[C:20](=[O:21])N)[O-:10]>>C1CO[C:20]([O:10]1)(N)[O-:21] 10=20;20,21=21
CCO[C:20](=[O:21])[C:10](C)(C(I)I)[C:11](=O)[O-:12].CCO.[K+]>>CCO[C:20](=[C:10](C)C(I)I)[O-:21].[C:11](=O)=[O:12].CCO.[K+] 10,11=10,20;20,21=21;12=11
C[C:11]1=[CH:10]OC=C1.O[S+:20](=O)=O>>C[C+:11]1C=CO[CH:10]1[S:20](=O)(=O)O 10,11=10,20
CC[OH:10].CCOC(=O)CC[C:20](=[OH+:21])C>>CC[OH+:10][C:20](C)(CCC(=O)OCC)[OH:21] 10=20;20,21=21
[B-](CCCC)(CCCC)([O:12][C:11](=[CH:10]C)C(C=CC)O[Si](C)(C)C(C)(C)C)[O+:21]=[CH:20]C.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>[B-]1([O:21][CH:20]([CH:10]([C:11](=[O+:12]1)C(C=CC)O[Si](C)(C)C(C)(C)C)C)C)(CCCC)CCCC.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC(=O)O[I+:20]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.C[Si](C)(C)CCSC(=CC=C(C=O)SCC[Si](C)(C)C)C[OH:10].CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CC(=O)O[I:20]1(C2=C(C=CC=C2)C(=O)O1)([OH+:10]CC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)OC(=O)C.CC(=O)O.CC(=O)[O-].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20,
CCC(C)C([C:20](=[OH+:21])O)[NH3+].C[OH:10].[Cl-]>>CCC(C)C([C:20](O)([OH:21])[OH+:10]C)[NH3+].[Cl-] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC1(C2=C(C=CC=C2)NC(=O)C([NH2+]1)CC3=CC=CC=C3)[O-:10]>>[H:20][O:10]C1(C2=C(C=CC=C2)NC(=O)C([NH2+]1)CC3=CC=CC=C3)C.CC[N:21](CC)CC 10=20;20,21=21
C[Si](C)(C)[O:10]CCO[C:20]1=[O+:21]C2=C(CC1)C=CC=C2.C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[Si](C)(C)[O+:10]1CCO[C:20]12CCC3=C([O:21]2)C=CC=C3.C[Si](C)(C)O[Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CS1)Br.[Br-:10]>>[H:20][Br:10].C1=CS[C:21](=[CH:22]1)Br 10=20;20,21=21,22
[H:20][OH:21].CC1(CC(=O)CC1[O-:10])C>>[H:20][O:10]C1CC(=O)CC1(C)C.[OH-:21] 10=20;20,21=21
CC(C)O[Al:20](OC(C)C)OC(C)C.COC1=CC2=C(CCN3C24CC(=[O:10])C=CC4=CC3=O)C=C1.CC(C)O>>CC(C)O[Al-:20](OC(C)C)(OC(C)C)[O+:10]=C1CC23C(=CC(=O)N2CCC4=C3C=C(C=C4)OC)C=C1.CC(C)O 10=20,
CC1C(=C(C2C#CC=CC#CC3C14C2(O4)[C:12]5=[C:13]([N-:14]3)C=C[C:10](=[CH:11]5)[O:20][I:21](C6=CC=CC=C6)OC(=O)C)OC)C(=O)OCOC.CCCC[N+](CCCC)(CCCC)CCCC.CC(=O)[O-].C(=O)=O>>CC1C(=C(C2C#CC=CC#CC3C14C2(O4)[C:12]5=[CH:11][C:10](=[O:20])C=C[C:13]5=[N:14]3)OC)C(=O)OCOC.CC(=O)O[I-:21]C1=CC=CC=C1.CCCC[N+](CCCC)(CCCC)CCCC.CC(=O)[O-].C(=O)=O 10,11=10,20;20,21=21;12,13=11,12;14=13
[H:20][O:21]C(=O)C.C1=CC=C(C=C1)N2[C:11](=[CH:10]C(C2=O)[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[O-:12]>>[H:20][CH:10]1C(C(=O)N([C:11]1=[O:12])C2=CC=CC=C2)[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.CC(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[NH+:21]=[C:20](OC)OC.[OH2:10]>>C[NH:21][C:20]([OH2+:10])(OC)OC 10=20;20,21=21
[H:20][CH:21](CC(=O)C1=CC=CC=C1)[C:22](=[NH+:23]C2CCCCC2N)C.CC(=O)[O-:10].CO.O>>[H:20][O:10]C(=O)C.C[C:22](=[CH:21]CC(=O)C1=CC=CC=C1)[NH:23]C2CCCCC2N.CO.O 10=20;22,23=23;20,21=21,22
CCCC(CC(=O)N(C)CC)C(CCC)[N:10]=[N:20][OH2+:21]>>CCCC(CC(=O)N(C)CC)C(CCC)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][CH:21]1C2C3CC4=C5C2(CCN3CC6=CC=CC=C6)C(C([CH:22]1[Br:23])(OC)OC)OC5=C(C=C4)OC.CC(C)(C)[O-:10].CS(=O)C.[K+]>>[H:20][O:10]C(C)(C)C.COC1=C2C3=C(CC4C5C3(CCN4CC6=CC=CC=C6)C(O2)C([CH:22]=[CH:21]5)(OC)OC)C=C1.[Br-:23].CS(=O)C.[K+] 10=20;22,23=23;20,21=21,22
COC1=C(C=C(C(=C1)[CH:20]=[OH+:21])Br)OC.C(CO)C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>COC1=C(C=C(C(=C1)[CH:20]([OH:21])[OH+:10]CCCO)Br)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].CCNC[CH:10]=[C:11](N(CC)CC)[O-:12]>>[H:20][CH:10](CNCC)[C:11](=[O:12])N(CC)CC.[OH2:21] 10,11=10,20;20,21=21;12=11
